US05684034
Hexane was used to wash 80 mg (2.0 mmol) of 60% NaH/mineral oil and 6 mL of DMF was added followed by 352 mg (2.0 mmol) of 2-methyl-5-nitro-1H-indole. After 0.33 hours, 0.24 mL (2.0 mmol) of benzyl bromide was added, stirred 0.5 hours and diluted with water. The mixture was extracted with EtOAc, the EtOAc washed with a saturated NaCl solution, dried MgSO4) and on concentrating at reduced pressure, crystals formed. These were washed with MeOH to give 400 mg (75% yield) of 2-methyl-5-nitro-1-(phenylmethyl)-1H-indole, mp, 150°-152° C.

reactant | Hexane | CCCCCC | C6H14
reactant | NaH | 2.0 mmol, 80 mg | [H-].[Na+]
reactant | 2-methyl-5-nitro-1H-indole | 2.0 mmol, 352 mg | CC=1NC2=CC=C(C=C2C1)[N+](=O)[O-] | C9H8N2O2
reactant | benzyl bromide | 2.0 mmol, 0.24 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | water | O | H2O
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | 2-methyl-5-nitro-1-(phenylmethyl)-1H-indole | 400 mg, 75% yield | CC=1N(C2=CC=C(C=C2C1)[N+](=O)[O-])CC1=CC=CC=C1 | C16H14N2O2
